data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4769,5447,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[O+:18]=[C:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]([CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:18][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,17.129619011471355,-28.071727483160192
3498,3989,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10](=[O:11])[NH:12][CH3:13])[N+:14]([CH3:15])=[CH:16][C:17]#[N:18]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10](=[O:11])[NH:12][CH3:13])[N:14]([CH3:15])[CH:16]1[C:17]#[N:18],water,298.15,25.15328666731008,-33.815057978403075
1600,1769,[CH3:18][O:19][C:20](=[O:21])[N-:22][N+:23]([CH3:24])=[CH:25][C:26]([CH3:27])=[O:28].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:22]([C:20]([O:19][CH3:18])=[O:21])[N:23]([CH3:24])[CH:25]2[C:26]([CH3:27])=[O:28],water,298.15,6.901512205356785,-44.33665055301686
1174,1276,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20](=[O:21])[O:22][CH3:23])[n+:24]1[CH3:25].[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]3([C:20](=[O:21])[O:22][CH3:23])[N:24]1[CH3:25],water,298.15,21.612165575046568,-15.868213214503774
4827,5509,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,13.168012298431329,-29.49520193970329
611,671,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH:15]#[N+:16][C-:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:15]=[N:16][C:17]3([CH3:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,15.237010126060044,-60.26263084439004
3680,4201,[CH3:9][O:10][C:11](=[O:12])[CH:13]=[O+:14][CH-:15][C:16](=[O:17])[O:18][CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:15]([C:16](=[O:17])[O:18][CH3:19])[O:14][CH:13]1[C:11]([O:10][CH3:9])=[O:12],water,298.15,8.608855880066233,-50.68319344891429
5072,5760,[CH3:10][O:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH3:22])[C:23]1([CH3:24])[C:25](=[O:26])[O:27][CH3:28],water,298.15,25.18396438110632,-15.981260781095363
377,408,[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[N:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]=[C:17]3[C:18]([CH3:19])=[O:20],water,298.15,16.297029771767154,-64.11329912126016
4781,5459,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[NH+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[NH:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,18.737878478245943,-26.073144375124286
3682,4203,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[N:7]#[C:8][c:9]1[nH+:10][c-:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[c:18](=[O:19])[o:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]2([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[NH:10][C:9]1([C:8]#[N:7])[O:20][C:18]2=[O:19],water,298.15,20.830989601336587,0.4863852567011038
4360,4981,[CH3:9][C:10](=[NH+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[NH:11][C:10]1([CH3:9])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,12.089932572020173,-19.368731851139792
